US04359584
A mixture of 110 parts of ethyl N-(4-tert.-butyl-phenyl)-carbamate, 370 parts of aniline and 700 parts of ethanol is heated to 180° C. in an autoclave and kept at this temperature for 6 hours. The mixture is then subjected to fractional distillation under reduced pressure. 60 parts (80% of theory) of 4-tert.-butylaniline, of boiling point 93°-94° C./4 mbar, are obtained.

reactant | ethyl N-(4-tert.-butyl-phenyl)-carbamate | C(C)(C)(C)C1=CC=C(C=C1)NC(OCC)=O | C13H19NO2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | C(C)O | C2H6O
product | 4-tert.-butylaniline | 80% | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
